*
.SUBCKT PBSS2515VS 1 2 3 4 5 6
*
Q1 6 2 1 PBSS2515VS
Q2 3 5 4 PBSS2515Vs
+ AREA = 1
*
.MODEL PBSS2515VS NPN
+ IS = 5.081E-14
+ NF = 0.9851
+ ISE = 3.304E-14
+ NE = 2.27
+ BF = 435
+ IKF = 0.75
+ VAF = 16.5
+ NR = 0.985
+ ISC = 9.959E-15
+ NC = 1.506
+ BR = 243
+ IKR = 0.188
+ VAR = 15.9
+ RB = 27
+ IRB = 0.00074
+ RBM = 0.05
+ RE = 0.11
+ RC = 0.19
+ XTB = 0
+ EG = 1.11
+ XTI = 3
+ CJE = 3.863E-11
+ VJE = 0.8
+ MJE = 0.393
+ TF = 4.5E-10
+ XTF = 4
+ VTF = 0.9
+ ITF = 0.8
+ PTF = 0
+ CJC = 1.287E-11
+ VJC = 0.7021
+ MJC = 0.41
+ XCJC = 1
+ TR = 1.8E-09
+ CJS = 0
+ VJS = 0.75
+ MJS = 0.333
+ FC = 0.78
.ENDS
*
