*
.SUBCKT PDTA124XE 1 2 3 
*
R1 1 22 2.2E+04 
Cres1 1 3 4.3E-13 
R21 22 11 2.35E+04 
R22 11 2 2.35E+04 
Cres2 3 11 1.5E-13
*
Q1 3 22 2 PDTA124XE 
*
.MODEL PDTA124XE PNP 
+ IS = 2.014E-14 
+ NF = 0.9974 
+ ISE = 6.578E-15 
+ NE = 1.45 
+ BF = 339.3 
+ IKF = 0.079 
+ VAF = 39.15 
+ NR = 0.9952 
+ ISC = 1.948E-12 
+ NC = 1.55 
+ BR = 12.01 
+ IKR = 0.09 
+ VAR = 16.5 
+ RB = 10 
+ IRB = 5E-06 
+ RBM = 5E-06 
+ RE = 0.673 
+ RC = 0.718 
+ XTB = 0 
+ EG = 1.11 
+ XTI = 3 
+ CJE = 1.104E-11 
+ VJE = 0.9 
+ MJE = 0.2748 
+ TF = 1E-32 
+ XTF = 5.387 
+ VTF = 6.245 
+ ITF = 0.2108 
+ PTF = 0 
+ CJC = 6.4E-12 
+ VJC = 0.499 
+ MJC = 0.4434 
+ XCJC = 1 
+ TR = 1E-32 
+ CJS = 0 
+ VJS = 0.75 
+ MJS = 0.333 
+ XTB = 0 
+ XTI = 3 
+ EG = 1.11 
+ FC = 0.5 
.ENDS
*
