*
.SUBCKT PDTA123YK 1 2 3 
*
R1 1 22 2.2E+03
Cres1 1 3 1.8E-13 
R21 11 22 5E+03
R22 11 2 5E+03
Cres2 11 3 5E-14
* 
Q1 3 22 2 TA223Y 
D1 3 22 DIODE 
*
.MODEL TA223Y PNP 
+ IS = 1.131E-014 
+ NF = 0.9943 
+ ISE = 6.781E-016 
+ NE = 1.252 
+ BF = 240 
+ IKF = 0.1 
+ VAF = 60 
+ NR = 0.989 
+ ISC = 2.764E-014 
+ NC = 1.368 
+ BR = 22 
+ IKR = 0.013 
+ VAR = 27 
+ RB = 67.45 
+ IRB = 0.0001 
+ RBM = 1.77 
+ RE = 0.432 
+ RC = 0.558 
+ XTB = 0 
+ EG = 1.11 
+ XTI = 3 
+ CJE = 9.397E-012 
+ VJE = 0.8 
+ MJE = 0.4178 
+ TF = 9.2E-010 
+ XTF = 10 
+ VTF = 1.5 
+ ITF = 0.35 
+ PTF = 0 
+ CJC = 9.486E-012 
+ VJC = 0.8585 
+ MJC = 0.5993 
+ XCJC = 1 
+ TR = 1.2E-008 
+ CJS = 0 
+ VJS = 0.75 
+ MJS = 0.333 
+ FC = 0.78 
*
.MODEL DIODE D 
+ IS = 1.882E-015 
+ N = 1 
+ BV = 1000 
+ IBV = 0.001 
+ RS = 1000 
+ CJO = 0 
+ VJ = 1 
+ M = 0.5 
+ FC = 0 
+ TT = 0 
+ EG = 1.11 
+ XTI = 3 
.ENDS
*
